US20010012901A1
A mixture of chlorosulfonic acid (4.78 ml) and CH2Cl2 (25 ml) was added dropwise into a mixture of ethyl 4-(2,3,5-trimethylphenoxy)butyrate (6.00 g) and dichloromethane (CH2Cl2, 500 ml) under ice-water cooling over 10 minutes, and was stirred at room temperature for 2.5 hours. The reaction mixture was poured into a mixture of ice and sat. NaHCO3ac. The separated organic phase was washed with sat. NaHCO3aq., water, and brine, and was dried over MgSO4. After filtration, the filtrate was evaporated to give 4-(3-ethoxycarbonylpropoxy)-2,3,6-trimethylbenzenesulfonyl chloride (16.35 g) as an oil compound.

reactant | chlorosulfonic acid | 4.78 ml | ClS(=O)(=O)O | ClHO3S
reactant | ethyl 4-(2,3,5-trimethylphenoxy)butyrate | 6.00 g | CC1=C(OCCCC(=O)OCC)C=C(C=C1C)C | C15H22O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-ethoxycarbonylpropoxy)-2,3,6-trimethylbenzenesulfonyl chloride | 16.35 g | C(C)OC(=O)CCCOC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C15H21ClO5S
